US08466170B2
360.8 mg of cyanogen bromide is added dropwise with stirring to a mixture of 500 mg of 1-(1H-pyrrolo[2,3-b]pyridine-3-carbohydrazide, 1.192 g of sodium hydrogencarbonate in 50 ml of water and 5 ml of DMF. The reaction mixture starts to foam, and a fine precipitate forms. This is filtered off with suction after 2 hours and dried, giving 450 mg of 5-(1H-pyrrolo[2,3-b]-pyridin-3-yl)-1,3,4-oxadiazol-2-ylamine (yield: 78.8%); MS-FAB (M+H+)=202.2; Rf (polar method): 1.00 min;

reactant | cyanogen bromide | 360.8 mg | N#CBr | CBrN
reactant | 1H-pyrrolo[2,3-b]pyridine-3-carbohydrazide | N1C=C(C=2C1=NC=CC2)C(=O)NN | C8H8N4O
reactant | sodium hydrogencarbonate | 1.192 g | C(O)([O-])=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(1H-pyrrolo[2,3-b]-pyridin-3-yl)-1,3,4-oxadiazol-2-ylamine | 450 mg, yield: 78.8% | N1C=C(C=2C1=NC=CC2)C2=NN=C(O2)N | C9H7N5O
